US05225402
Ethanol (10 ml) and 10% aqueous sodium hydroxide solution (12 ml) are added to 1-(1-benzoyl-4-piperidinyl)carbostyril (1.0 g) and the mixture is refluxed with heating for 7 hours. After concentration, water is added thereto and the mixture is extracted with dichloromethane. The dichloromethane layer is collected by filtration and water is added thereto. The mixture is acidified with diluted hydrochloric acid. The aqueous layer is basified with diluted aqueous sodium hydroxide solution, extracted with dichloromethane and then concentrated to give 1-(4piperidinyl)carbostyril (0.58 g).

reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | 1-(1-benzoyl-4-piperidinyl)carbostyril | 1.0 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)N1C(=O)C=CC2=CC=CC=C12 | C21H20N2O2
solvent | Ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4piperidinyl)carbostyril | 0.58 g | N1CCC(CC1)N1C(=O)C=CC2=CC=CC=C12 | C14H16N2O
